US07534905B2
To a solution of (4S,5S)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine (2.08 g, 7.8 mmol) in methylene chloride (25 mL) was added triethylamine (1.2 mL, 8.6 mmol). 2-Propanol (0.6 mL, 7.8 mmol) was added slowly by syringe and the mixture was allowed to stir for 12 hours. The methylene chloride was removed by distillation and pentane (20 ml) was added to the residue. The mixture was stirred for 3 hours. The mixture was then filtered through a pad of celite. The filtrate was concentrated to afford an oil which was distilled under reduced pressure (b.p. ˜72° C., ˜0.2 mm Hg) to yield 1.08 g (48%) of (4S,5S)-2-Allyl-2-isopropoxy-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine as a ˜2:1 mixture of diastereomers.

reactant | (4S,5S)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 7.8 mmol, 2.08 g | C(C=C)[Si]1(O[C@H]([C@@H](N1C)C)C1=CC=CC=C1)Cl | C13H18ClNOSi
reactant | triethylamine | 8.6 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Propanol | 7.8 mmol, 0.6 mL | CC(C)O | C3H8O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | (4S,5S)-2-Allyl-2-isopropoxy-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 1.08 g, 48% | C(C=C)[Si]1(O[C@H]([C@@H](N1C)C)C1=CC=CC=C1)OC(C)C | C16H25NO2Si
